US03948973
c. Methyl 2-[p-(1-hydroxypropyl)phenoxy]-2-methylpropionate.
Sodium borohydride (10.6 g., 0.279 mole) was added to a stirred solution of 114.5 g. (0.458 mole) of methyl 2-(p-propionylphenoxy)-2-methylpropionate in 500 ml. of methanol, held at 5°C. in an ice bath. After the exothermic reaction had slowed, the ice bath was removed and the reaction mixture stirred for one hour at room temperature. The solvent was removed in vacuo, and the residue partitioned between ether and water containing acetic acid in slight excess of that needed to make the aqueous layer acidic. The ether layer was separated, washed with sodium bicarbonate solution, dried over anhydrous sodium sulfate and concentrated in vacuo. There was thus obtained 113 g. of methyl 2-[p-(1-hydroxypropyl)phenoxy]-2-methylpropionate as a pale straw-colored oil.

reactant | Sodium borohydride | 0.279 mole, 10.6 g | [BH4-].[Na+]
reactant | methyl 2-(p-propionylphenoxy)-2-methylpropionate | 0.458 mole | C(CC)(=O)C1=CC=C(OC(C(=O)OC)(C)C)C=C1 | C14H18O4
solvent | methanol | CO | CH4O
product | Methyl 2-[p-(1-hydroxypropyl)phenoxy]-2-methylpropionate | OC(CC)C1=CC=C(OC(C(=O)OC)(C)C)C=C1 | C14H20O4
